US06696461B2
17. (7S,8R,9R)-8-Hydroxy-7-methoxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
180 mg of (7R,8R,9R)-7,8-dihydroxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine, dissolved in 10 ml of methanol, are admixed with 110 mg of concentrated sulfuric acid and allowed to stand at room temperature for 16 hours. The mixture is then diluted with 100 ml of water and adjusted to pH 8 using aqueous IN sodium hydroxide solution and aqueous saturated sodium hydrogen carbonate solution and extracted 3 times with in each case 50 ml of methylene chloride. The combined organic phases are evaporated to dryness in vacuo and the residue is chromatographed on silica gel (mobile phase: methylene chloride/methanol=100/3). This gives 100 mg of the title compound [Rf=0.62 (methylene chloride/methanol=13/1)] of melting point 126-9° C. (decomp.).

reactant | (7R,8R,9R)-7,8-dihydroxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine | 180 mg | O[C@H]1[C@@H]([C@H](NC=2C=3N(C=C(C12)COC)C(=C(N3)C)C)C3=CC=CC=C3)O | C20H23N3O3
reactant | sulfuric acid | 110 mg | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 10 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | (7S,8R,9R)-8-Hydroxy-7-methoxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | O[C@@H]1[C@H](NC=2C=3N(C=C(C2[C@@H]1OC)COC)C(=C(N3)C)C)C3=CC=CC=C3 | C21H25N3O3
